US04463007
Ethyl 6-methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate
12.0 g (0.047 mole) of ethyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate in 100 ml of absolute dimethylformamide were added dropwise to a suspension of 0.053 mole of NaH in 100 ml of absolute dimethylformamide at room temperature. After 2 hours, 7.5 g (0.053 mole) of methyl iodide were added, and the mixture was stirred overnight at room temperature and then poured into 400 ml of ice water. The precipitate was filtered off under suction and dried. Yield: 6.6 g (52%), mp.: 258° C.

reactant | ethyl 1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | 0.047 mole, 12.0 g | N1=C(NN2C(N=C3C=CC=CC3=C21)=O)C(=O)OCC | C12H10N4O3
reactant | NaH | 0.053 mole | [H-].[Na+]
reactant | methyl iodide | 0.053 mole, 7.5 g | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-methyl-1,2,4-triazolo[1,5-c]quinazolin-5-one-2-carboxylate | CN1C(N2C(C=3C=CC=CC13)=NC(=N2)C(=O)OCC)=O | C13H12N4O3
